US09315490B2
3a) (1-(5-(2-Chlorophenyl)pyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone
Synthesized according to general procedure 1 from (1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone (1.0 g, 2.30 mmol, 1.0 eq) and (2-chlorophenyl)boronic acid (0.429 g, 2.77 mmol, 1.2 eq). Yield: 0.7 g (65% of theory).

reactant | (1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone | 2.30 mmol, 1.0 g, 1.0 eq | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)SC | C18H17BrN4O2S
reactant | (2-chlorophenyl)boronic acid | 2.77 mmol, 0.429 g, 1.2 eq | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | (1-(5-(2-Chlorophenyl)pyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone | ClC1=C(C=CC=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)SC | C24H21ClN4O2S
